US08222246B2
N-tert-Butyl-6-[3-(3,4-difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinamide
A trimethylaluminium solution (2 M in toluene, 798 μL, 1.6 mmol) in dioxane (7.5 mL) was added to tert-butylamine (174 μL, 1.6 mmol) and the mixture was stirred for 1 h at 50° C. 6-[3-(3,4-Difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (150 mg, 0.4 mmol) in dioxane (7.5 mL) was added and stirring was continued overnight at 85° C. Chromatography (silica, ethyl acetate: heptane=1:4 to 1:1) afforded the title compound (20 mg, 13%) as a colourless solid. MS: m/e=416.4 [M−H]−.

reactant | trimethylaluminium | 1.6 mmol, 2 M, 798 μL | C[Al](C)C
reactant | tert-butylamine | 1.6 mmol, 174 μL | C(C)(C)(C)N | C4H11N
reactant | 6-[3-(3,4-Difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.4 mmol, 150 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1CO)C1=CC(=C(C=C1)F)F)=O | C18H14F2N2O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 7.5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 7.5 mL | O1CCOCC1 | C4H8O2
solvent | heptane | CCCCCCC | C7H16
product | N-tert-Butyl-6-[3-(3,4-difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinamide | 20 mg, 13% | C(C)(C)(C)NC(C1=CN=C(C=C1)OCC=1C(=NOC1CO)C1=CC(=C(C=C1)F)F)=O | C21H21F2N3O4
